US04075221
In the manner given in Example 1, a solution of 8-fluoro-1-methyl-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine in dimethylformamide, N,N,N',N'-tetrapropyldiaminomethane and acetyl chloride (in 0.5 molar excess compared to the N,N,N',N'-tetrapropyldiaminomethane) are reacted together to give 8-fluoro-1[2-(dipropylamino)ethyl]-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a][1,4-benzodiazepine

reactant | 8-fluoro-1-methyl-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC=1C=CC2=C(C(=NCC=3N2C(=NN3)C)C3=C(C=CC=C3)F)C1 | C17H12F2N4
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 1,4-benzodiazepine | N1C=CN=CC2=C1C=CC=C2 | C9H8N2
